* Z:\mnt\design.r\spice\examples\1629-PG.asc
M§Q1 IN N004 N007 N007 FDS6680A
C1 N006 N007 .47µ
M§Q2 N007 N012 0 0 FDS6680A
D1 N001 N006 1N5818
L1 N007 N008 1µ
R1 N008 OUT 2m
D2 0 N007 1N5818
M§Q3 IN N016 N019 N019 FDS6680A
C2 N018 N019 .47µ
M§Q4 N019 N023 0 0 FDS6680A
L2 N019 N020 1µ
D3 0 N019 1N5818
C3 OUT 0 1000µ Rser=10m x2
R2 N021 0 16K
R3 N022 N021 16K
R4 OUT N017 3.3K
C4 N015 0 100p
C5 N014 0 1000p
R5 N015 N014 10K
C6 N013 0 250p
D4 N001 N018 1N5818
V1 IN 0 6
R6 N020 OUT 2m
XU1 N013 N008 OUT N021 N011 N009 N003 N015 0 N022 0 OUT OUT N020 N017 N016 N019 N018 N023 0 N001 N002 N012 IN N006 N007 N004 N005 LTC1629-PG
R7 N010 0 10K
C7 N011 N010 .01µ
C8 N001 0 1µ
V2 N009 0 SINE(.5 .5 200K)
Rload OUT 0 .1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
.lib LTC1629-PG.sub
.backanno
.end
